US07875639B2
tert-butyl-(2-Imino-4,5-dimethyl-thiazol-3-yl)-acetate hydrobromide
A mixture of 4,5-dimethlyl-thiazol-2-ylamine (1.0 g, 7.8 mmol) and bromo-acetic acid tert-butyl ester (1.4 mL, 9.4 mmol) was heated at 85° C. for 14 hours and then cooled to ambient temperature. Recrystallization of the residue from ethyl acetate provided 2.9 g of a 4:1 mixture of the title compound to starting 4,5-dimethyl-thiazol-2-ylamine.

reactant | 4,5-dimethlyl-thiazol-2-ylamine | 7.8 mmol, 1.0 g | C=C1N=C(SC1=C)N | C5H6N2S
reactant | bromo-acetic acid tert-butyl ester | 9.4 mmol, 1.4 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
product | tert-butyl-(2-Imino-4,5-dimethyl-thiazol-3-yl)-acetate hydrobromide | Br.C(C)(C)(C)OC(CN1C(SC(=C1C)C)=N)=O | InChI=1S/C11H18N2O2S.BrH/c1-7-8(2)16-10(12)13(7)6-9(14)15-11(3,4)5;/h12H,6H2,1-5H3;1H
